US07893060B2
To a suspension of 2-(5-chloro-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidin-2-yl)-1-phenyl-ethanol (1.1 g, 2.9 mmol) in toluene (25 mL) was added p-toluenesulfonic acid (0.11 g, 0.58 mmol) and the resulting solution stirred at 120° C. for 24 h. The reaction mixture was concentrated in vacuo to give 5-chloro-7-morpholin-4-yl-2-styryl-thiazolo[5,4-d]pyrimidine as a crude yellow solid which was used without purification. To a suspension of 5-chloro-7-morpholin-4-yl-2-styryl-thiazolo[5,4-d]pyrimidine (2.9 mmol) in THF (9 mL), acetonitrile (9 mL) and H2O (3 mL) were added ruthenium(III) chloride (18 mg, 0.081 mmol) and periodic acid (1.3 g, 5.80 mmol). The resulting solution was stirred at RT for 2 h, then partitioned between EtOAc and an aqueous solution of sodium thiosulfate. The aqueous layer was isolated and extracted with EtOAc. The combined organic layers were washed with brine, dried (Na2SO4) and concentrated in vacuo. The resultant residue was purified by column chromatography to give the title compound as a yellow solid (0.34 g, 42%).

reactant | 2-(5-chloro-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidin-2-yl)-1-phenyl-ethanol | 2.9 mmol, 1.1 g | ClC=1N=C(C2=C(N1)SC(=N2)CC(O)C2=CC=CC=C2)N2CCOCC2 | C17H17ClN4O2S
reactant | p-toluenesulfonic acid | 0.58 mmol, 0.11 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-7-morpholin-4-yl-2-styryl-thiazolo[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)SC(=N2)C=CC2=CC=CC=C2)N2CCOCC2 | C17H15ClN4OS
